US04221912
By substituting 4-methoxy-L-proline tert-butyl ester [prepared from 4-methoxy-L-proline by the procedure described in J. Am. Chem. Soc., 82, 3359 (1960) for L-proline] for the L-proline tert-butyl ester and 3-acetylthiopropanoyl chloride for the 3-acetylthio-2-methylpropanoyl chloride in the procedure of Example 1, and then submitting the product to the procedure of Example 2, 4,5-dihydro-1-(3-mercapto-1-oxopropyl)-4-methoxy-1H-pyrrole-2-carboxylic acid is obtained.

reactant | 4-methoxy-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1NCC(C1)OC)=O | C10H19NO3
reactant | 4-methoxy-L-proline | COC1C[C@H](NC1)C(=O)O | C6H11NO3
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | 3-acetylthiopropanoyl chloride | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
reactant | 3-acetylthio-2-methylpropanoyl chloride | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
product | 4,5-dihydro-1-(3-mercapto-1-oxopropyl)-4-methoxy-1H-pyrrole-2-carboxylic acid | SCCC(=O)N1C(=CC(C1)OC)C(=O)O | C9H13NO4S
